US04662932
2-(2,2-Dimethylhydrazinosulfonyl)-benzenesulfonamide
A solution of 1.28 g of 2-(aminosulfonyl)benzenesulfonyl chloride in 12 mL of dry tetrahydrofuran (THF) was cooled to -65° C. and a solution of 0.88 mL of 1,1-dimethylhydrazine in 12 mL of dry THF added dropwise. The resulting mixture was allowed to warm to room temperature, filtered, and the filtrate concentrated in vacuo. The solid residue was partitioned between water and ethyl acetate, the organic phase was separated, washed with water, washed with brine, dried (MgSO4), concentrated in vacuo, and the residue triturated with 1-chlorobutane to provide 1.07 g of the subject compound, m.p. 122°-124° C. (dec).

reactant | 2-(aminosulfonyl)benzenesulfonyl chloride | 1.28 g | NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C6H6ClNO4S2
reactant | 1,1-dimethylhydrazine | 0.88 mL | CN(N)C | C2H8N2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | THF | 12 mL | O1CCCC1 | C4H8O
product | 2-(2,2-Dimethylhydrazinosulfonyl)-benzenesulfonamide | 1.07 g | CN(NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N)C | C8H13N3O4S2
